US06083908
To a solution of (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid (0.27 g, 0.96 mmol) in methylene chloride (10 ml) was added 1-hydroxy-7-azabenzotriazole (0.13 g, 0.96 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.18 g, 0.96 mmol) and the mixture was cooled to 0° C. Then acetic acid N'-methylhydrazide (0.19 g, 0.96 mmol) and diisopropylethylamine (0.41 ml, 2.40 mmol) were added and the mixture was stirred at room temperature overnight. Then methylene chloride (50 ml) was added and the mixture was washed with water (10 ml), saturated sodium bicarbonate (10 ml), brine (10 ml), dried (MgSO4), filtered and concentrated in vacuo to give 0.35 g (125%) of crude N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester as a colourless oil.

reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid | 0.96 mmol, 0.27 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.96 mmol, 0.13 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.96 mmol, 0.18 g | Cl.C(C)N=C=NCCCN(C)C
reactant | acetic acid N'-methylhydrazide | 0.96 mmol, 0.19 g | CNNC(C)=O | C3H8N2O
reactant | diisopropylethylamine | 2.40 mmol, 0.41 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[(1R)-2-(N'-acetyl-N-methylhydrazino)-1-benzyl-2-oxoethyl]-N-methylcarbamic acid tert-butyl ester | 0.35 g, 125% | C(C)(C)(C)OC(N(C)[C@@H](C(=O)N(NC(C)=O)C)CC1=CC=CC=C1)=O | C18H27N3O4
